US05387684
Carbon tetrachloride (26 ml) was added to ethyl 2-(5-methyl-2H-indazol-2-yl)benzoate (1.43 g, 5.10 mmol) as obtained in Reference Example 3 and the mixture was stirred. Thereto were added N-bromosuccinimide (0.908 g, 5.10 mmol) and azobisisobutyronitrile (78 mg, 0.48 mmol), and the mixture was refluxed under heating for 3 hours. After cooling, the mixture was filtered, and the cake was washed twice with carbon tetrachloride (5 ml). The filtrate was concentrated, and subjected to flash chromatography on silica gel using a mixed solvent of hexane/ethyl acetate (8:1-3:1), whereby 1.47 g of ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate was obtained.

reactant | ethyl 2-(5-methyl-2H-indazol-2-yl)benzoate | 5.10 mmol, 1.43 g | CC1=CC2=CN(N=C2C=C1)C1=C(C(=O)OCC)C=CC=C1 | C17H16N2O2
reactant | N-bromosuccinimide | 5.10 mmol, 0.908 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.48 mmol, 78 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | Carbon tetrachloride | 26 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-(3-bromo-5-methyl-2H-indazol-2-yl)benzoate | 1.47 g | BrC=1N(N=C2C=CC(=CC12)C)C1=C(C(=O)OCC)C=CC=C1 | C17H15BrN2O2
